US06831081B2
N-(4-Chlorobenzyl)-7-ethyl-2-(hydroxymethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-carboxamide.
Potassium carbonate (0.87 g) and iodoethane (0.5 mL) are added to a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide (2.0 g, prepared as described in U.S. Pat. No. 6,239,142) in anhydrous DMF (60 mL). The reaction mixture is stirred at room temperature for 18 h. The mixture is diluted with water (150 mL) and filtered. The resulting white powder is washed with water (15 mL) followed by diethyl ether (15 mL) and dried in a vacuum oven to afford 1.64 g of the title compound as a white solid. Physical characteristics. M.p. 169-172° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.65, 8.74, 7.37, 7.29, 5.81, 4.70, 4.54, 4.32, 1.44. HRMS (FAB) m/z 377.0720 (M+H)+. Anal. Found. C, 56.87; H, 4.77; N, 7.38; Cl, 9.35; S, 8.44.

reactant | Potassium carbonate | 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.5 mL | ICC | C2H5I
reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CO)O)C=C1 | C16H13ClN2O3S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | N-(4-Chlorobenzyl)-7-ethyl-2-(hydroxymethyl)-4-oxo-4,7-dihydrothieno[2,3-b]-pyridine-5-carboxamide | 1.64 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC)SC(=C3)CO)=O)C=C1 | C18H17ClN2O3S
